US07217794B2
Nitration of 6-cyano-naphthalene-2-carboxylic acid methyl ester, prepared as described in U.S. Pat. No. 6,284,796, is carried out with KNO3 in sulfuric acid at 0° C. for 30 min. The reaction mixture is poured into ice and filtered, and the compound is washed with water and dried. The product, 6-cyano-4-nitro-naphthalene-2-carboxylic acid methyl ester is obtained and used without further purification.

reactant | 6-cyano-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC=C(C=C2C=C1)C#N | C13H9NO2
reactant | KNO3 | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-cyano-4-nitro-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC=C(C=C2C(=C1)[N+](=O)[O-])C#N | C13H8N2O4
